US08053581B2
Step 4: Preparation of 4-(4-methoxy-phenyl)-5-methyl-thiazol-2-ylamine
A procedure similar to step 5 of Example 6 was used. 2-bromo-1-(4-methoxy-phenyl)-propan-1-one prepared in the step 3, thiourea and anhydrous sodium acetate were used as starting materials, refluxed for 4 hours, followed by post-treatment to give a crude product, which was recrystallized with anhydrous ethanol to obtain a product as a white solid in a yield of 66.8%, mp: 139-140 └. 1H-NMR (CDCl3, 400 MHz) δ: 2.37 (3H, s, ArCH3), 3.84 (3H, s, OCH3), 5.09 (2H, br, NH2), 6.93 (2H, d, J=8.68 Hz, ArH), 7.50 (2H, d, J=8.68 Hz, ArH); EI-MS m/e (%): 220.1 (M+, 100), 205.1 (18), 163.1 (31); HREI-MS Calcd. for C11H12N2OS: 220.0670. found: 220.0672. Anal. Calcd. for C11H12N2OS: C, 59.98; H, 5.49; N, 12.72. found: C, 59.90; H, 5.52; N, 12.55.

reactant | 2-bromo-1-(4-methoxy-phenyl)-propan-1-one | BrC(C(=O)C1=CC=C(C=C1)OC)C | C10H11BrO2
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-(4-methoxy-phenyl)-5-methyl-thiazol-2-ylamine | yield of 66.8% | COC1=CC=C(C=C1)C=1N=C(SC1C)N | C11H12N2OS
